US05783572
A solution of methyl 2-amino-5,6-dimethyl-3-nitrobenzoate (11.78 g, 52.5 mmol) in dichloromethane (525 mL) was hydrogenated over 10% palladium on charcoal (1.2 g) at 50 psi (3.3 atm) and 50° C. for 16 hours. Another portion of catalyst (1.2 g) was added, and hydrogenation was allowed to proceed for a further 16 hours. The mixture was filtered through Arbocel filter aid, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with dichloromethane/methanol) to give methyl 2,3-diamino-5,6-dimethylbenzoate (8.36 g, 82%) as an orange oil.

reactant | methyl 2-amino-5,6-dimethyl-3-nitrobenzoate | 52.5 mmol, 11.78 g | NC1=C(C(=O)OC)C(=C(C=C1[N+](=O)[O-])C)C | C10H12N2O4
solvent | dichloromethane | 525 mL | ClCCl | CH2Cl2
catalyst | palladium on charcoal | 1.2 g | [Pd] | Pd
product | methyl 2,3-diamino-5,6-dimethylbenzoate | 8.36 g, 82% | NC1=C(C(=O)OC)C(=C(C=C1N)C)C | C10H14N2O2
